US06664272B2
1,5-Bis(2-hydroxyphenyl)penta-1-en-3-ol (EF5):
To a solution of 1,5-bis(2-hydroxyphenyl)penta-1,4-dien-3-one (EF1) (109 mg, 0.41 mmol) in THF/methanol (10/1) (2.5 mL) was added NaBH4 (40 mg, 1.30 mmol) in one portion at 0° C. After stirring for 30 min at this temperature the reaction was quenched with H2O dist and cold brine, diluted with Et2O (10 mL) and neutralized by bubbling CO2 through the dark-red solution (color change to pale yellow). The aqueous phase was extracted with ether, the combined ether layers washed with brine, dried over MgSO4 and concentrated. The crude product was purified by chromatography on silica gel using 30% EtOAc/hexanes. The product was obtained as a white solid (66%).

reactant | 1,5-bis(2-hydroxyphenyl)penta-1,4-dien-3-one | 0.41 mmol, 109 mg | OC1=C(C=CC=C1)C=CC(C=CC1=C(C=CC=C1)O)=O | C17H14O3
reactant | NaBH4 | 1.30 mmol, 40 mg | [BH4-].[Na+]
solvent | THF methanol | 2.5 mL | C1CCOC1.CO
product | 1,5-Bis(2-hydroxyphenyl)penta-1-en-3-ol | 66% | OC1=C(C=CC=C1)C=CC(CCC1=C(C=CC=C1)O)O | C17H18O3
